US07105544B2
ISOPROPYL 3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYLCARBAMATE
Example 146 was prepared from bis(4-fluorophenyl)acetic acid and isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.43 (s, 2H), 7.30–7.19 (m, 4H), 7.11–7.07 (m, 1H), 7.01–6.96 (m, 5H), 6.88 (d, 1H, J=7.7 Hz), 6.69 (s, 1H), 4.97 (septet, 1H, J=6.3 Hz), 4.79 (s, 1H), 4.11 (q, 1H, J=6.8 Hz), 3.39 (q, 2H, J=5.6 Hz), 2.98–2.92 (m, 2H), 2.52–2.40 (m, 3H), 1.98 (t, 2H, J=11.5 Hz), 1.85–1.78 (m, 2H), 1.72–1.54 (m, 3H), 1.27 (d, 6H, J=6.3 Hz); ESMS m/e: 550.3 (M+H)+; Anal. Calc. for C32H37F2N3O3.0.87 HCl: C, 66.84; H, 6.61; N, 7.31.Found: C, 66.83; H, 6.48; N, 7.31.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O | C18H29N3O2
reactant | HCl | Cl | ClH
product | ISOPROPYL 3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYLCARBAMATE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O)C1=CC=C(C=C1)F | C32H37F2N3O3
